US08633212B2
6-Bromo-3′,4′-dihydro-1′H-spiro[indene-2,2′-naphthalen]-1(3H)-one (163 mg, 0.5 mmol), 3-cyanophenylboronic acid (147 g, 1 mmol) in [1,4]-dioxane (12 mL), Cs2CO3 (2 N, 3.2 mL), then Pd(PPh3)2Cl2 (5 mg, 0.01 mmol) was added under Ar2, the mixture was refluxed for 30 minutes. The reaction mixture was concentrated in vacuo to give the residue, which was purified by TLC to give 3-(1-oxo-1,3,3′,4′-tetrahydro-1′H-spiro[indene-2,2′-naphthalene]-6-yl)benzonitrile (35 mg, 6%).

reactant | 6-Bromo-3′,4′-dihydro-1′H-spiro[indene-2,2′-naphthalen]-1(3H)-one | 0.5 mmol, 163 mg | BrC1=CC=C2CC3(CC4=CC=CC=C4CC3)C(C2=C1)=O | C18H15BrO
reactant | 3-cyanophenylboronic acid | 1 mmol, 147 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
solvent | [1,4]-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | Cs2CO3 | 2 N, 3.2 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd(PPh3)2Cl2 | 0.01 mmol, 5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(1-oxo-1,3,3′,4′-tetrahydro-1′H-spiro[indene-2,2′-naphthalene]-6-yl)benzonitrile | 35 mg, 6% | O=C1C2=CC(=CC=C2CC12CC1=CC=CC=C1CC2)C=2C=C(C#N)C=CC2 | C25H19NO
